data/specific_train_final.csv
"CC(=O)OCCCO[O:20].[N+](=O)([O-])[O:10]>>CC(=O)OCCCO[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCOCC[O:20].[N+:10](=O)[O-]>>CCOCC[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:10][CH2:9][CH2:8][CH2:7][CH:6]([CH2:11][OH:12])[O:5][O:4][O:3][N+:2](=[O:1])[O-:13]>>[CH3:10][CH2:9][CH2:8][CH2:7][CH:6]([CH2:11][OH:12])[O:5][O:4][O:3].[N+:2](=[O:1])[O-:13] 2,3-2; 2,3-3",Room Temperature,Initiation,homolyze
"[H:20][O:21][O].CC(C=C)(C(=O)OO)O[O:10]>>[H:20][O:10]OC(C)(C=C)C(=O)OO.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH3:5][C:4](=[CH:6][CH2:7][OH:8])[CH2:3][O:2][O:1].[N:9]=[O:10]>>[CH3:5][C:4](=[CH:6][CH2:7][OH:8])[CH2:3][O:2][O:1][N:9]=[O:10] 1-1,9; 9-1,9",Room Temperature,Termination,recombine
"[CH3:1][C:2]([CH2:5][OH:6])[CH:3]=[O:4].[O:7][O:8]>>[CH3:1][C:2]([CH2:5][OH:6])([CH:3]=[O:4])[O:7][O:8] 2-2,7; 7-2,7",Room Temperature,Termination,recombine
"[H:20][CH2:21]Br.[OH:10]>>[H:20][OH:10].[CH2:21]Br 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCC12CC(C(C=C1)(C)[O:21][O:20][O])OO2.[N+](=O)[O-]>>CCC12CC(C(C=C1)(C)[O:21])OO2.[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(CO[O:20])(C=O)O.[N:10]=O>>CC(CO[O:20][N:10]=O)(C=O)O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C(C)(C)C)[O:20][O:21]N=O>>CC(C(C)(C)C)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[CH3:1][C:2](=[CH:7][CH2:8][O:9][O:10])[C:3](=[O:6])[O:4][OH:5]>>[CH3:1][C:2]([CH:7]=[CH2:8])([C:3](=[O:6])[O:4][OH:5])[O:10][O:9] 10-10,2; 7,2-10,2; 7,2-7,8; 9,8-7,8; 9,8-9",Room Temperature,Propagation,addition
"[CH3:7][C:6]([CH3:8])([CH2:9][O:10][N+:11](=[O:13])[O-:12])[O:5][O:4][O:3][N+:2](=[O:1])[O-:14]>>[CH3:7][C:6]([CH3:8])([CH2:9][O:10][N+:11](=[O:13])[O-:12])[O:5][O:4][O:3].[N+:2](=[O:1])[O-:14] 2,3-2; 2,3-3",Room Temperature,Initiation,homolyze
"CC(C(C=O)O[N+](=O)[O-])[O:20][O:21][O]>>CC(C(C=O)O[N+](=O)[O-])[O:20].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(C)(C)[O:20][O:21][O]>>CC(C)(C)[O:20].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[CH:12]1=[CH:13][CH:5]([CH:6]([C:9](=[CH:11]1)[OH:10])[O:7][O:8])[O:4][N+:2](=[O:1])[O-:3]>>[CH:12]1=[CH:11][C:9]([CH:6]2[CH:5]([CH:13]1[O:8][O:7]2)[O:4][N+:2](=[O:1])[O-:3])[OH:10] 8-8,13; 12,13-8,13; 12,13-11,12; 9,11-11,12; 9,11-9",Room Temperature,Propagation,addition
"CCC12C=C(C(C(C1O)(OO2)C)O[O:20])C.[N:10]=O>>CCC12C=C(C(C(C1O)(OO2)C)O[O:20][N:10]=O)C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(CO[N+](=O)[O-])(C(C[O:20][O:21]N=O)OO)O>>CC(CO[N+](=O)[O-])(C(C[O:20])OO)O.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[CH3:1][C:2]([CH2:9][O:10][N+:11](=[O:13])[O-:12])([CH:3]([CH:6]=[O:7])[O:4][O:5])[OH:8].[N:14]=[O:15]>>[CH3:1][C:2]([CH2:9][O:10][N+:11](=[O:13])[O-:12])([CH:3]([CH:6]=[O:7])[O:4][O:5][N:14]=[O:15])[OH:8] 14-14,5; 5-14,5",Room Temperature,Termination,recombine
"CC(C)(COO[O:20][N+:21](=O)[O-])OC>>CC(C)(COO[O:20])OC.[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][O:21]C(C(C(=C)C)O[O:10])OO>>[H:20][O:10]OC(C([O:21])OO)C(=C)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(C(C)(C)[O:20][O:21][O])O>>CC(C(C)(C)[O:20])O.[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][O:21][O].CCCC(CO)O[O:10]>>[H:20][O:10]OC(CCC)CO.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][O:21][O].CC(C)CC(C)O[O:10]>>[H:20][O:10]OC(C)CC(C)C.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][O:21][CH:22]COCCCC.[O:10][O]>>[H:20][O:10][O].CCCCOC[CH:22]=[O:21] 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,abstraction
CCCC([O])OCC(C)O.N(=O)[O].O=[N:10][O:20]>>O=[N+:10][O-:20].CCCC([O])OCC(C)O.N(=O)[O] 10-20,Room Temperature,Propagation,ha resonance
[CH3:7][CH2:6][CH:4]([CH3:5])[CH:2]([CH3:3])[O:1].[N:9](=[O:10])[O:8]>>[CH3:7][CH2:6][CH:4]([CH3:5])[CH:2]([CH3:3])[O:1].[N+:9](=[O:10])[O-:8] 9-8,Room Temperature,Propagation,ha resonance
"[CH3:10][CH:9]([C:6]([CH3:7])([CH3:8])[O:5][O:4][O:3][N+:2](=[O:1])[O-:12])[OH:11]>>[CH3:10][CH:9]([C:6]([CH3:7])([CH3:8])[O:5][O:4][O:3])[OH:11].[N+:2](=[O:1])[O-:12] 2,3-3; 2,3-2",Room Temperature,Initiation,homolyze
"[H:20][O:21][O].CC(C)C(CO[O:10])O[N+](=O)[O-]>>[H:20][O:10]OCC(C(C)C)O[N+](=O)[O-].[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCC(C)(CO[O:20])O[N+](=O)[O-].[N+](=O)([O-])[O:10]>>CCC(C)(CO[O:20][O:10][N+](=O)[O-])O[N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C[O:21][O:20][O])O.[N+](=O)[O-]>>CC(C[O:21])O.[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCCCOC(C(C)O)O[O:20].[N+](=O)([O-])[O:10]>>CCCCOC(C(C)O)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
